US08791161B2
N-[2-({2-[(aminocarbonyl)amino]ethyl}thio)-5-chlorophenyl]-1-benzofuran-2-sulfonamide
Following General Procedure A, B, the title compound was prepared from 2-Amino-4-chloro-benzenethiol, (2-chloro-ethyl)-urea and 1-benzofuran-2-sulfonyl chloride.

reactant | 2-Amino-4-chloro-benzenethiol | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | (2-chloro-ethyl)-urea | ClCCNC(=O)N | C3H7ClN2O
reactant | 1-benzofuran-2-sulfonyl chloride | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
product | N-[2-({2-[(aminocarbonyl)amino]ethyl}thio)-5-chlorophenyl]-1-benzofuran-2-sulfonamide | NC(=O)NCCSC1=C(C=C(C=C1)Cl)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2 | C17H16ClN3O4S2
